US05414087
In a typical experiment, isobutyraldehyde and aminoethylethanolamine (AEEA) were pumped separately from weighed feed tanks using adjustable metering pumps. Isobutyraldehyde was pumped at a rate of 0.29 lb/hr and AEEA at a rate of 0.37 lb/hr, giving an isobutyraldehyde/AEEA feed mole ratio of approximately 1.10/1 and a liquid hourly space velocity of 0.5 g total liquid feed/hr/ml catalyst. The two liquid feeds were brought together and allowed to react in a 6-foot coil of 1/4-inch tubing before entering the main reactor. Maximum temperature in this coil of tubing was 64° C.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | aminoethylethanolamine | NCCC(O)CN | C4H12N2O
product | isobutyraldehyde AEEA | C(C(C)C)=O.NCCC(O)CN | InChI=1S/C4H12N2O.C4H8O/c5-2-1-4(7)3-6;1-4(2)3-5/h4,7H,1-3,5-6H2;3-4H,1-2H3
